US07432288B2
3-[(4-Morpholin-4-ylphenyl)amino]-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione
4-Morpholinoaniline (0.94 mmol, 178 mg) dissolved in dry CH3CN (2 mL) was added to crude 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione (0.47 mmol, 140 mg) and the reaction mixture was subjected to microwave heating single node 130° C. for 10 min. 0.3 mL water was added and the reaction mixture was purified using HPLC (57% 0.1M ammonium acetate buffer: 43% CH3CN→100% CH3CN, 20 mL/min) to give 56 mg (27%) of the title compound. 1H NMR (400 MHz, CD3CN) δ 8.63 (d, 1H), 8.51 (dd, 1H), 7.81-7.73 (m, 1H), 7.36-7.31 (m, 1H), 7.16-7.11 (m,1H), 7.10-7.04 (m, 2H), 6.99-6.93 (m, 2H), 6.69-6.64 (m, 2H), 6.59-6.53 (m, 2H), 4.75 (s, 2H), 3.74 (t, J=4.8 Hz, 4H), 2.97 (t, J=4.8 Hz, 4H).

reactant | 4-Morpholinoaniline | 0.94 mmol, 178 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 0.47 mmol, 140 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C16H11ClN2O2
reactant | water | 0.3 mL | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 3-[(4-Morpholin-4-ylphenyl)amino]-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 56 mg, 27% | N1(CCOCC1)C1=CC=C(C=C1)NC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C26H24N4O3
